US06593355B2
e. 2-(4-cyanophenylaminomethyl)-1-methyl-5-[1-(1H-tetrazol-5-yl-methyl)-1-(pyrrolidinocarbonyl)-ethyl]-benzimidazole
Prepared analogously to Example 1g/h from 2-[4-(N-methylamino)-3-amino-phenyl]-2-methyl-3-(1H-tetrazol-5-yl)-1-pyrrolidino-propan-1-one, 4-cyano-phenylglycine/O-(benzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium tetrafluoroborate and subsequently treating with glacial acetic acid.

reactant | 2-[4-(N-methylamino)-3-amino-phenyl]-2-methyl-3-(1H-tetrazol-5-yl)-1-pyrrolidino-propan-1-one | CNC1=C(C=C(C=C1)C(C(=O)N1CCCC1)(CC1=NN=NN1)C)N | C16H23N7O
reactant | 4-cyano-phenylglycine O-(benzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium tetrafluoroborate | C(#N)C1=CC=C(C=C1)NCC(=O)O.F[B-](F)(F)F.N1(N=NC2=C1C=CC=C2)OC(=[N+](C)C)N(C)C
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 2-(4-cyanophenylaminomethyl)-1-methyl-5-[1-(1H-tetrazol-5-yl-methyl)-1-(pyrrolidinocarbonyl)-ethyl]-benzimidazole | C(#N)C1=CC=C(C=C1)NCC1=NC2=C(N1C)C=CC(=C2)C(C)(C(=O)N2CCCC2)CC2=NN=NN2 | C25H27N9O
